US09108957B2
To a solution of 3-(4-methoxy-benzylamino)-propan-1-ol (2.00 g, 10.2 mmol) in dichloromethane (30 ml) was added triethylamine (1.09 g, 10.8 mmol) and 2-chloropropionyl chloride (1.37 g, 10.8 mmol) at 0° C. The mixture was stirred at 0° C. for one hour and partitioned between 0.5N hydrochloric acid and dichloromethane. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was dissolved into 2-propanol (50 ml) and potassium hydroxide (1.15 g, 20.5 mmol) was added at 0° C. The resulting mixture was stirred at 0° C. for 4 hours and partitioned between saturated ammonium chloride solution and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant: hexane/ethyl acetate=3/1) to afford 4-(4-methoxybenzyl)-2-methyl-[1,4]oxazepan-3-one as colorless oil (2.00 g, 78%).

reactant | 3-(4-methoxy-benzylamino)-propan-1-ol | 10.2 mmol, 2.00 g | COC1=CC=C(CNCCCO)C=C1 | C11H17NO2
reactant | triethylamine | 10.8 mmol, 1.09 g | C(C)N(CC)CC | C6H15N
reactant | 2-chloropropionyl chloride | 10.8 mmol, 1.37 g | ClC(C(=O)Cl)C | C3H4Cl2O
reactant | potassium hydroxide | 20.5 mmol, 1.15 g | [OH-].[K+]
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | 2-propanol | 50 ml | CC(C)O | C3H8O
product | 4-(4-methoxybenzyl)-2-methyl-[1,4]oxazepan-3-one | 2.00 g, 78% | COC1=CC=C(CN2C(C(OCCC2)C)=O)C=C1 | C14H19NO3
